US07491710B2
16 mg of imidazole and 40.5 mg of methylphenylphosphinic chloride are added to a solution of 27 mg of 3-[1-tert-butoxycarbonyl-5-(2-morpholin-4-yl-ethoxy)-1H-indol-2-yl]-5-hydroxyindazole-1-carboxylic acid tert-butyl ester in 2 ml of dichloromethane. The solution obtained is stirred at ambient temperature. After stirring for 15 hours, a further 16 mg of imidazole and 40.5 mg of methylphenylphosphinic chloride are added and the mixture is stirred at ambient temperature for another 3½ hours in order for the reaction to be complete. The reaction mixture is then filtered and evaporated under reduced pressure in a rotary evaporator. The residue obtained is purified by LC/MS to obtain 10.5 mg of 3-[1-tert-butoxycarbonyl-5-(2-morpholin-4-ylethoxy)-1H-indol-2-yl]-5-(methylphenylphosphinoyloxy)indazole-1-carboxylic acid tert-butyl ester.

reactant | imidazole | 16 mg | N1C=NC=C1 | C3H4N2
reactant | methylphenylphosphinic chloride | 40.5 mg | CP(=O)(C1=CC=CC=C1)Cl | C7H8ClOP
reactant | 3-[1-tert-butoxycarbonyl-5-(2-morpholin-4-yl-ethoxy)-1H-indol-2-yl]-5-hydroxyindazole-1-carboxylic acid tert-butyl ester | 27 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)O)C=1N(C2=CC=C(C=C2C1)OCCN1CCOCC1)C(=O)OC(C)(C)C | C31H38N4O7
reactant | imidazole | 16 mg | N1C=NC=C1 | C3H4N2
reactant | methylphenylphosphinic chloride | 40.5 mg | CP(=O)(C1=CC=CC=C1)Cl | C7H8ClOP
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 3-[1-tert-butoxycarbonyl-5-(2-morpholin-4-ylethoxy)-1H-indol-2-yl]-5-(methylphenylphosphinoyloxy)indazole-1-carboxylic acid tert-butyl ester | 10.5 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)OP(=O)(C1=CC=CC=C1)C)C=1N(C2=CC=C(C=C2C1)OCCN1CCOCC1)C(=O)OC(C)(C)C | C38H45N4O8P
